US09101616B2
Step-2: (R,E)-N-((5-(2-fluorobenzyloxy)pyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide
To a solution of Reactant 5-(2-fluorobenzyloxy)picolinonitrile (690 mg, 3.0 mmol) in dichloromethane (20 mL) was added DIBAL-H (3.7 mL, 3.6 mmol, 0.99 M) at −78° C. After being stirred at −78° C. for 4 hours, methanol (2 mL) was added to the mixture. 1N hydrochloric acid (0.5 mL) was added to the mixture at room temperature. The mixture was stirred at room temperature for 1 hour. Sat. sodium bicarbonate aqueous solution was added to the mixture until the pH was neutrized. The organic layer was extracted with dichloromethane, dried over sodium sulfate and concentrated in vacuo. The residue was dissolved in dichloromethane (20 mL). Copper(II) sulfate (1.2 g, 7.6 mmol) followed by (R)-(+)-2-methyl-2-propanesulfinamide (370 mg, 3.0 mmol) were added to the mixture respectively and the mixture was stirred for overnight at room temperature. The reaction mixture was filtrated off through a pad of Celite and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (2:1 (v/v)) to give 360 mg (36% yield) of the title compound as a colorless oil:

reactant | 5-(2-fluorobenzyloxy)picolinonitrile | 3.0 mmol, 690 mg | FC1=C(COC=2C=CC(=NC2)C#N)C=CC=C1 | C13H9FN2O
reactant | DIBAL-H | 3.6 mmol, 0.99 M, 3.7 mL | CC(C)C[AlH]CC(C)C
reactant | hydrochloric acid | 1N, 0.5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | (R)-(+)-2-methyl-2-propanesulfinamide | 3.0 mmol, 370 mg | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | Copper(II) sulfate | 7.6 mmol, 1.2 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | methanol | 2 mL | CO | CH4O
product | (R,E)-N-((5-(2-fluorobenzyloxy)pyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide | 360 mg, 36% yield | FC1=C(COC=2C=CC(=NC2)\C=N\[S@](=O)C(C)(C)C)C=CC=C1 | C17H19FN2O2S
